### PR TITLE
feat(Analysis/ODE): peano existence theorem, full version

### PR DESCRIPTION
**Pull request by philipp-svinger**
Prove peano existence theorem for ODEs (differential form)

Show existence of solution backwards in time by reflection.
Glue together for global solution.
Show solution fulfills differential formulation from integral formulation.

Co-authored-by: Florian Grube <fgrube@math.uni-bielefeld.de>
Co-authored-by: Paul Niessner <pniessner@math.uni-bielefeld.de>
Co-authored-by: Julian Rolfes <jrolfes@math.uni-bielefeld.de>
Co-authored-by: Luke Schleef <lschleef@math.uni-bielefeld.de>
Co-authored-by: Philipp Svinger <psvinger@math.uni-bielefeld.de>

---
We want to add the proof of the Peano existence theorem for ODEs, using Tonelli approximations.
This is the sixth and final PR in a series.
See our further PRs for more information.

---
The statements, definitions and proofs were written without AI.
AI was used afterwards to help us to adapt our code to the style and naming conventions.
We also used it in the process of writing a documentation.

- [ ] depends on: #42142
- [ ] depends on: #42143
- [ ] depends on: #42144
- [ ] depends on: #42146
- [ ] depends on: #42147

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/ODE/Peano.lean [hunk 1]
```diff
@@ -0,0 +1,647 @@
...
+on the full time interval. -/
+theorem exists_eq_forall_mem_Icc_hasDerivWithinAt₀ (hf : IsPeano f t₀ x₀ r L) :
+    ∃ α : ℝ → E, α t₀ = x₀ ∧
+      ∀ t ∈ Icc tmin tmax, HasDerivWithinAt α (f (t, α t)) (Icc tmin tmax) t := by
+  obtain ⟨α, hα_cont, hα_maps, hα_eq⟩ := exists_eq_forall_mem_Icc_eq_integral hf
+  use α
+  constructor
+  · rw [hα_eq t₀]
+    · simp
+    · exact t₀.2
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:630]:
```suggestion
  · simp [hα_eq t₀]
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 2]
```diff
@@ -0,0 +1,647 @@
...
+
+open Filter
+open scoped BoundedContinuousFunction
+
+variable {E : Type*} [NormedAddCommGroup E]
+  {f : ℝ × E → E} {α : ℝ → E} {tmin tmax : ℝ} {t₀ : Icc tmin tmax} {x₀ : E} {r L : ℝ≥0}
+
+lemma mul_abs_sub_le_radius {t : ℝ} (hf : IsPeano f t₀ x₀ r L)
+    (ht : t ∈ Icc t₀.val tmax) : L * |t - t₀| ≤ r := by
+  have h_abs : |t - t₀| = t - t₀ := abs_of_nonneg (sub_nonneg.mpr ht.1)
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:76]: You can inline the `h_abs` here

File: Mathlib/Analysis/ODE/Peano.lean [hunk 3]
```diff
@@ -0,0 +1,647 @@
...
+/-- The time-step size of every Tonelli approximation is nonnegative. -/
+lemma stepSize_nonneg (t₀ : Icc tmin tmax) (n : ℕ) : 0 ≤ stepSize t₀ n :=
+  div_nonneg (sub_nonneg.mpr t₀.2.2) (Nat.cast_nonneg n)
+
+lemma add_mul_stepSize_eq_tmax (t₀ : Icc tmin tmax) (n : ℕ) :
+    t₀.val + ((n : ℝ) + 1) * stepSize t₀ (n + 1) = tmax := by
+  rw [stepSize]
+  field_simp
+  push_cast
+  ring
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:106]:
```suggestion
  grind
```

this one is more debatable though

File: Mathlib/Analysis/ODE/Peano.lean [hunk 4]
```diff
@@ -0,0 +1,647 @@
...
+
+/-- The delayed input is Lipschitz continuous with constant one. -/
+lemma lipschitzWith_delayedInput (t₀ : Icc tmin tmax) (n : ℕ) :
+    LipschitzWith 1 (delayedInput t₀ n) := by
+  rw [lipschitzWith_iff_dist_le_mul]
+  simp only [NNReal.coe_one, one_mul, Real.dist_eq]
+  intro x y
+  have h_dist :=
+    abs_max_sub_max_le_abs (x - stepSize t₀ n) (y - stepSize t₀ n) t₀.val
+  simp at h_dist
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:146]: Remember to squeeze non-terminal `simp` calls. See [here](https://leanprover-community.github.io/extras/simp.html) for more info.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 5]
```diff
@@ -0,0 +1,647 @@
...
+  tauto
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:147]:
```suggestion
  assumption
```
No need for the big guns ; ) besides this way it is a bit clearer

File: Mathlib/Analysis/ODE/Peano.lean [hunk 6]
```diff
@@ -0,0 +1,647 @@
...
+variable [NormedSpace ℝ E]
+
+/-! ### Tonelli approximations -/
+
+section TonelliApproximation
+
+/-- The time-step size of the `n`th Tonelli approximation. -/
+noncomputable def stepSize (t₀ : Icc tmin tmax) (n : ℕ) : ℝ := (tmax - t₀) / n
+
+/-- The time-step size of every Tonelli approximation is nonnegative. -/
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:97]: Do you really need all these docstrings for these lemmas? They are pretty self-explanatory

File: Mathlib/Analysis/ODE/Peano.lean [hunk 7]
```diff
@@ -0,0 +1,647 @@
...
+
+/-- Consecutive recursive curves agree on the first `k` time steps. -/
+lemma tonelliIterate_eq_succ_on_Icc (n : ℕ) (k : ℕ) (t : ℝ)
+    (ht : t ∈ Icc t₀.val (t₀.val + k * stepSize t₀ n)) :
+    tonelliIterate f t₀ x₀ n k t = tonelliIterate f t₀ x₀ n (k + 1) t := by
+  induction k generalizing t with
+  | zero =>
+    obtain rfl : t = (t₀ : ℝ) := by
+      simp only [Nat.cast_zero, zero_mul, add_zero] at ht
+      exact le_antisymm ht.2 ht.1
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:229]:
```suggestion
      simp_all
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 8]
```diff
@@ -0,0 +1,647 @@
...
+    (hf : IsPeano f t₀ x₀ r L) :
+    ∃ α : ℝ → E, ContinuousOn α (Icc tmin tmax) ∧ MapsTo α (Icc tmin tmax) (closedBall x₀ r) ∧
+      ∀ t ∈ Icc tmin tmax, α t = x₀ + ∫ s in t₀..t, f (s, α s) := by
+  obtain ⟨α₁, hα₁_cont, hα₁_maps, hα₁_eq⟩ :=
+    exists_eq_forall_mem_Icc_eq_integral_forward hf
+  obtain ⟨α₂, hα₂_cont, hα₂_maps, hα₂_eq⟩ :=
+    exists_eq_forall_mem_Icc_eq_integral_backward hf
+  let α : ℝ → E := fun t ↦ if t₀ ≤ t then α₁ t else α₂ t
+  have hα_eq_α₁ : EqOn α α₁ (Icc t₀ tmax) := by
+    unfold EqOn
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:555]:
```suggestion
```
You don't need to `unfold EqOn` every time.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 9]
```diff
@@ -0,0 +1,647 @@
...
+    · exact t₀.prop.1
+    · exact t₀.prop.2
+  use α
+  refine ⟨?_, ?_, ?_⟩
+  · rw [← h_union]
+    apply ContinuousOn.union_of_isClosed
+    · apply ContinuousOn.congr hα₂_cont hα_eq_α₂
+    · apply ContinuousOn.congr hα₁_cont hα_eq_α₁
+    · apply isClosed_Icc
+    · apply isClosed_Icc
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:585]:
```suggestion
    apply ContinuousOn.union_of_isClosed ?_ ?_ isClosed_Icc isClosed_Icc
    · apply ContinuousOn.congr hα₂_cont hα_eq_α₂
    · apply ContinuousOn.congr hα₁_cont hα_eq_α₁
```
Minor fix to save some space.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 10]
```diff
@@ -0,0 +1,647 @@
...
+  toFun := α
+  continuous_toFun := hα
+
+/-- Package a continuous map on the compact interval `Icc t₀ tmax` as a bounded continuous map. -/
+def boundedContinuousFunctionOnIcc (α : C(Icc t₀.val tmax, E)) :
+    Icc t₀.val tmax →ᵇ E :=
+  BoundedContinuousFunction.mkOfCompact α
+
+/-- The Tonelli approximations as bounded continuous functions on `Icc t₀ tmax`. -/
+noncomputable def boundedTonelliApproximation
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:295]: I think you can make some of these `def`-s `private`.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 11]
```diff
@@ -0,0 +1,647 @@
...
+    rw [hα_apply]
+    let t' : Icc t₀.val tmax := ⟨t, ht⟩
+    have h_uniform : TendstoUniformly (fun n ↦ boundedTonelliApproximation hf (φ n)) β atTop :=
+      BoundedContinuousFunction.tendsto_iff_tendstoUniformly.mp hβ_tendsto
+    have h_pointwise :
+        Tendsto (fun n ↦ boundedTonelliApproximation hf (φ n) t') atTop (nhds (β t')) :=
+      h_uniform.tendsto_at t'
+    apply isClosed_closedBall.mem_of_tendsto h_pointwise
+    apply Eventually.of_forall
+    intro n
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:386]:
```suggestion
    filter_upwards with n
```
Is also a possible spelling

**Review by luigi-massacci — COMMENTED** [review]
Thank you for this! Just some trivial simplifications for now. I think your main issue is that Mathlib is missing at least a couple `fun_prop` lemmas about `ContinuousOn`and `ite`, and that is what makes your proofs so verbose. You might also consider giving a shot to using `Set.piecewise`(as in `ContinuousOn.piecewise`) and see if that helps. I'll come back to this later next week.

**Comment by luigi-massacci** [comment]
awaiting-author

File: Mathlib/Analysis/ODE/Peano.lean (hunk 11 above)
Comment (philipp-svinger) [reply Mathlib/Analysis/ODE/Peano.lean]: Thanks, learned something new. Changed it multiple times.

File: Mathlib/Analysis/ODE/Peano.lean (hunk 6 above)
Comment (philipp-svinger) [reply Mathlib/Analysis/ODE/Peano.lean]: We have removed some docstrings of self-explanatory lemmas. If you think we should remove more, please let us know.

File: Mathlib/Analysis/ODE/Peano.lean (hunk 10 above)
Comment (philipp-svinger) [reply Mathlib/Analysis/ODE/Peano.lean]: We have made some of the def-s private in section Arzela-Ascoli. Should we exclude more?

**Comment by philipp-svinger** [comment]
Thank you for all your comments. We are happy about further feedback.

> Thank you for this! Just some trivial simplifications for now. I think your main issue is that Mathlib is missing at least a couple `fun_prop` lemmas about `ContinuousOn`and `ite`, and that is what makes your proofs so verbose. You might also consider giving a shot to using `Set.piecewise`(as in `ContinuousOn.piecewise`) and see if that helps. I'll come back to this later next week.

We gave Set.piecewise a quick look. But we are not sure whether it shortens the proof. We would be happy about further suggestions.

**Comment by philipp-svinger** [comment]
-awaiting-author

File: Mathlib/Analysis/ODE/Peano.lean [hunk 12]
```diff
@@ -0,0 +1,625 @@
...
+  /-- The time interval of validity. -/
+  mul_max_le : L * max (tmax - t₀) (t₀ - tmin) ≤ r
+
+namespace IsPeano
+
+open Filter
+open scoped BoundedContinuousFunction
+
+variable {E : Type*} [NormedAddCommGroup E]
+  {f : ℝ × E → E} {α : ℝ → E} {tmin tmax : ℝ} {t₀ : Icc tmin tmax} {x₀ : E} {r L : ℝ≥0}
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
variable {E : Type*} [NormedAddCommGroup E]
  {f : ℝ × E → E} {α : ℝ → E} {tmin tmax : ℝ} {t₀ : Icc tmin tmax} {x₀ : E} {r L : ℝ≥0}

private lemma Icc_t0_subset_Icc : Icc t₀.val tmax ⊆ Icc tmin tmax :=
  Icc_subset_Icc_left t₀.2.1

```
Since in practice you prove this lemma in a bunch of places, I think it helps readability to have it spelled out. `private` since nobody cares outside this file.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 13]
```diff
@@ -0,0 +1,625 @@
...
+  have h_diff : t - t₀ ≤ max (tmax - t₀) (t₀ - tmin) := by
+    calc
+      t - t₀ ≤ tmax - t₀ := sub_le_sub_right ht.2 t₀
+      tmax - t₀ ≤ max (tmax - t₀) (t₀ - tmin) := le_max_left (tmax - t₀) (t₀ - tmin)
+  calc
+    L * |t - t₀| = L * (t - t₀) := by rw [abs_of_nonneg (sub_nonneg.mpr ht.1)]
+    L * (t - t₀) ≤ L * max (tmax - t₀) (t₀ - tmin) := by
+      apply mul_le_mul_of_nonneg_left h_diff
+      positivity
+    L * max (tmax - t₀) (t₀ - tmin) ≤ r := hf.mul_max_le
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  rw [abs_of_nonneg (sub_nonneg.mpr ht.1)]
  refine le_trans ?_ hf.mul_max_le
  gcongr
  exact (sub_le_sub_right ht.2 _).trans (le_max_left _ _)
```
Unless you were really committed to `calc`for code readability. But given that it is an obvious enough computation, and this version is also quite clear with the infoview, I'd enjoy the bounty of `gcongr`.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 14]
```diff
@@ -0,0 +1,625 @@
...
+      (Icc t₀.val (t₀ + (k + 1 : ℝ) * stepSize t₀ n))
+      (Icc t₀.val (t₀ + (k : ℝ) * stepSize t₀ n)) := by
+  intro s hs
+  rw [mem_Icc] at hs ⊢
+  have h_mul_nonneg : 0 ≤ (k : ℝ) * stepSize t₀ n :=
+    mul_nonneg (Nat.cast_nonneg k) (stepSize_nonneg t₀ n)
+  unfold delayedInput
+  constructor
+  · exact le_max_right _ _
+  · apply max_le <;> linarith
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  exact ⟨le_max_right _ _, max_le (by linarith) (by linarith)⟩
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 15]
```diff
@@ -0,0 +1,625 @@
...
+/-- The delayed input maps the first `k + 1` time steps into the first `k` time steps. -/
+lemma mapsTo_delayedInput_previous_interval (n k : ℕ) (t₀ : Icc tmin tmax) :
+    MapsTo (delayedInput t₀ n)
+      (Icc t₀.val (t₀ + (k + 1 : ℝ) * stepSize t₀ n))
+      (Icc t₀.val (t₀ + (k : ℝ) * stepSize t₀ n)) := by
+  intro s hs
+  rw [mem_Icc] at hs ⊢
+  have h_mul_nonneg : 0 ≤ (k : ℝ) * stepSize t₀ n :=
+    mul_nonneg (Nat.cast_nonneg k) (stepSize_nonneg t₀ n)
+  unfold delayedInput
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 16]
```diff
@@ -0,0 +1,625 @@
...
+lemma mapsTo_delayedInput (t₀ : Icc tmin tmax) (n : ℕ) :
+    MapsTo (delayedInput t₀ n) (Icc t₀.val tmax) (Icc t₀.val tmax) := by
+  intro s hs
+  rw [mem_Icc] at hs ⊢
+  have := stepSize_nonneg t₀ n
+  have h_t₀_le_tmax : t₀.val ≤ tmax := t₀.2.2
+  unfold delayedInput
+  constructor
+  · exact le_max_right _ _
+  · apply max_le <;> linarith
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  exact ⟨le_max_right _ _, max_le (by linarith) t₀.2.2⟩
```
Since these are fairly obvious lemmas math-wise, I think we can golf them pretty aggressively.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 17]
```diff
@@ -0,0 +1,625 @@
...
+
+/-- The delayed input is Lipschitz continuous with constant one. -/
+lemma lipschitzWith_delayedInput (t₀ : Icc tmin tmax) (n : ℕ) :
+    LipschitzWith 1 (delayedInput t₀ n) := by
+  rw [lipschitzWith_iff_dist_le_mul]
+  simp only [NNReal.coe_one, one_mul, Real.dist_eq]
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 18]
```diff
@@ -0,0 +1,625 @@
...
+  intro x y
+  have h_dist :=
+    abs_max_sub_max_le_abs (x - stepSize t₀ n) (y - stepSize t₀ n) t₀.val
+  rw [sub_sub_sub_cancel_right] at h_dist
+  assumption
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  simpa [delayedInput, Real.dist_eq, sub_sub_sub_cancel_right] using
    abs_max_sub_max_le_abs (x - stepSize t₀ n) (y - stepSize t₀ n) t₀.val
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 19]
```diff
@@ -0,0 +1,625 @@
...
+    simp only [add_right_inj]
+    apply intervalIntegral.integral_congr
+    intro s hs
+    have hs_min : (t₀ : ℝ) ≤ s := min_eq_left ht.1 ▸ hs.1
+    have hs_max : s ≤ t := max_eq_right ht.1 ▸ hs.2
+    have hs_in_Icc : s ∈ Icc (t₀ : ℝ) ((t₀ : ℝ) + (k + 1 : ℝ) * stepSize t₀ n) :=
+      ⟨hs_min, le_trans hs_max ht.2⟩
+    simp only [
+      ih (delayedInput t₀ n s)
+        (mapsTo_delayedInput_previous_interval n k t₀ hs_in_Icc)]
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
    simp only [ih _ (mapsTo_delayedInput_previous_interval n k t₀
      (uIcc_subset_Icc (left_mem_Icc.mpr (ht.1.trans ht.2)) ht hs))]
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 20]
```diff
@@ -0,0 +1,625 @@
...
+/-- Package a continuous function on `Icc t₀ tmax` as a continuous map. -/
+private def continuousMapOnIcc (α : Icc t₀.val tmax → E) (hα : Continuous α) :
+    C(Icc t₀.val tmax, E) where
+  toFun := α
+  continuous_toFun := hα
+
+/-- Package a continuous map on the compact interval `Icc t₀ tmax` as a bounded continuous map. -/
+private def boundedContinuousFunctionOnIcc (α : C(Icc t₀.val tmax, E)) :
+    Icc t₀.val tmax →ᵇ E :=
+  BoundedContinuousFunction.mkOfCompact α
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
```
We can get rid of these and just inline.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 21]
```diff
@@ -0,0 +1,625 @@
...
+
+/-- The Tonelli approximations as bounded continuous functions on `Icc t₀ tmax`. -/
+private noncomputable def boundedTonelliApproximation
+    (hf : IsPeano f t₀ x₀ r L) (n : ℕ) : Icc t₀.val tmax →ᵇ E :=
+  boundedContinuousFunctionOnIcc
+    (continuousMapOnIcc (restrictToIcc (tonelliApproximation f t₀ x₀ n))
+      (continuousOn_iff_continuous_domRestrict.mp
+        (lipschitzOnWith_tonelliApproximation hf n).continuousOn))
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  .mkOfCompact ⟨(Icc t₀.val tmax).domRestrict (tonelliApproximation f t₀ x₀ n),
    continuousOn_iff_continuous_domRestrict.mp
      (lipschitzOnWith_tonelliApproximation hf n).continuousOn⟩
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 22]
```diff
@@ -0,0 +1,625 @@
...
+
+/-- The bounded continuous form of each Tonelli approximation has Lipschitz constant `L`. -/
+private lemma lipschitzWith_boundedTonelliApproximation (hf : IsPeano f t₀ x₀ r L) (n : ℕ) :
+    LipschitzWith L (boundedTonelliApproximation hf n) := by
+  rw [lipschitzWith_iff_dist_le_mul]
+  intro t s
+  rw [boundedTonelliApproximation]
+  exact (lipschitzOnWith_tonelliApproximation hf n).dist_le_mul t.val t.property s.val s.property
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  lipschitzWith_iff_dist_le_mul.mpr fun t s ↦
    (lipschitzOnWith_tonelliApproximation hf n).dist_le_mul t.val t.2 s.val s.2
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 23]
```diff
@@ -0,0 +1,625 @@
...
+
+/-- The family of bounded continuous Tonelli approximations is equicontinuous. -/
+private lemma equicontinuous_boundedTonelliApproximation (hf : IsPeano f t₀ x₀ r L) :
+    Equicontinuous (fun n ↦ (boundedTonelliApproximation hf n).toFun) := by
+  have : UniformEquicontinuous (fun n ↦ (boundedTonelliApproximation hf n).toFun) :=
+    LipschitzWith.uniformEquicontinuous (fun n ↦ (boundedTonelliApproximation hf n).toFun) L
+      (lipschitzWith_boundedTonelliApproximation hf)
+  apply UniformEquicontinuous.equicontinuous this
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  (LipschitzWith.uniformEquicontinuous _ L
    (lipschitzWith_boundedTonelliApproximation hf)).equicontinuous
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 24]
```diff
@@ -0,0 +1,625 @@
...
+  · intro g x hg
+    simp only [mem_range] at hg
+    obtain ⟨n, rfl⟩ := hg
+    unfold boundedTonelliApproximation boundedContinuousFunctionOnIcc continuousMapOnIcc
+      restrictToIcc
+    simp only [BoundedContinuousFunction.mkOfCompact_apply]
+    apply mapsTo_tonelliApproximation_closedBall hf n x.property
+  · intro x U hU
+    apply (equicontinuous_boundedTonelliApproximation hf x U hU).mono
+    simp
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  apply BoundedContinuousFunction.arzela_ascoli (closedBall x₀ r) (isCompact_closedBall _ _)
  · rintro g x ⟨n, rfl⟩
    exact mapsTo_tonelliApproximation_closedBall hf n x.2
  · exact fun x U hU ↦ (equicontinuous_boundedTonelliApproximation hf x U hU).mono (by simp)
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 25]
```diff
@@ -0,0 +1,625 @@
...
+    ∃ β : Icc t₀.val tmax →ᵇ E, ∃ φ : ℕ → ℕ, StrictMono φ ∧
+      Tendsto (boundedTonelliApproximation hf ∘ φ) atTop (nhds β) := by
+  let s : Set (Icc t₀.val tmax →ᵇ E) := closure (range (boundedTonelliApproximation hf))
+  have h_s_compact : IsCompact s := by
+    simpa [s] using isCompact_closure_range_boundedTonelliApproximation hf
+  have h_mem : ∀ n, boundedTonelliApproximation hf n ∈
+      closure (range (boundedTonelliApproximation hf)) := by
+    intro n
+    exact subset_closure ⟨n, rfl⟩
+  obtain ⟨β, _, φ, hφ_mono, hφ_tendsto⟩ := h_s_compact.tendsto_subseq h_mem
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  obtain ⟨β, _, φ, hφ_mono, hφ_tendsto⟩ :=
    (isCompact_closure_range_boundedTonelliApproximation hf).tendsto_subseq
      fun n ↦ subset_closure ⟨n, rfl⟩
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 26]
```diff
@@ -0,0 +1,625 @@
...
+
+variable [FiniteDimensional ℝ E]
+
+/-- A subsequence of Tonelli approximations converges uniformly to a continuous curve. -/
+lemma exists_tendstoUniformlyOn_subseq_tonelliApproximation (hf : IsPeano f t₀ x₀ r L) :
+    ∃ α : ℝ → E, ∃ φ : ℕ → ℕ, StrictMono φ ∧ ContinuousOn α (Icc t₀ tmax) ∧
+      MapsTo α (Icc t₀ tmax) (closedBall x₀ r) ∧
+        TendstoUniformlyOn (tonelliApproximation f t₀ x₀ ∘ φ) α atTop (Icc t₀.val tmax) := by
+  obtain ⟨β, φ, hφ_mono, hβ_tendsto⟩ := exists_tendsto_subseq_boundedTonelliApproximation hf
+  let α : ℝ → E := fun t ↦ if h : t ∈ Icc t₀.val tmax then β ⟨t, h⟩ else 0
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  let α : ℝ → E := fun t ↦ if h : t ∈ Icc t₀.val tmax then β ⟨t, h⟩ else 0
  have hα : ∀ t : Icc t₀.val tmax, α t = β t := fun t ↦ dite_eq_left t.2
  have h_uniform : TendstoUniformly (fun n ↦ boundedTonelliApproximation hf (φ n)) β atTop :=
    BoundedContinuousFunction.tendsto_iff_tendstoUniformly.mp hβ_tendsto
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 27]
```diff
@@ -0,0 +1,625 @@
...
+      BoundedContinuousFunction.tendsto_iff_tendstoUniformly.mp hβ_tendsto
+    rw [tendstoUniformlyOn_iff_tendstoUniformly_comp_coe]
+    have hα_comp : α ∘ Subtype.val = ⇑β := by
+      ext t
+      simp only [Function.comp_apply, α]
+      exact dite_eq_left t.prop
+    rw [hα_comp]
+    change TendstoUniformly
+      (fun n (t : Icc t₀.val tmax) ↦ boundedTonelliApproximation hf (φ n) t) ⇑β atTop
+    exact h_uniform
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  · rw [continuousOn_iff_continuous_domRestrict,
      show (Icc t₀.val tmax).domRestrict α = β from funext hα]
    exact β.continuous
  · intro t ht
    rw [hα ⟨t, ht⟩]
    refine isClosed_closedBall.mem_of_tendsto (h_uniform.tendsto_at ⟨t, ht⟩) ?_
    filter_upwards with n using mapsTo_tonelliApproximation_closedBall hf (φ n) ht
  · rw [tendstoUniformlyOn_iff_tendstoUniformly_comp_coe,
      show α ∘ Subtype.val = ⇑β from funext hα]
    exact h_uniform
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 28]
```diff
@@ -0,0 +1,625 @@
...
+    (hf : IsPeano f t₀ x₀ r L) (n : ℕ) :
+    ContinuousOn
+      (fun t ↦ f (t, tonelliApproximation f t₀ x₀ n (delayedInput t₀ (n + 1) t)))
+      (Icc t₀ tmax) := by
+  apply hf.continuousOn.comp
+    (ContinuousOn.prodMk continuousOn_id (continuousOn_tonelliApproximation_delayedInput hf n))
+  intro s hs
+  exact
+    ⟨mem_Icc.mp ⟨t₀.2.1.trans hs.1, hs.2⟩,
+      mapsTo_tonelliApproximation_delayedInput hf n hs⟩
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  exact ⟨mem_Icc.mp ⟨t₀.2.1.trans hs.1, hs.2⟩, mapsTo_tonelliApproximation_delayedInput hf n hs⟩
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 29]
```diff
@@ -0,0 +1,625 @@
...
+
+lemma mem_Icc_of_mem_uIoc {s t : ℝ} (ht : t ∈ Icc t₀.val tmax)
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
private lemma mem_Icc_of_mem_uIoc {s t : ℝ} (ht : t ∈ Icc t₀.val tmax)
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 30]
```diff
@@ -0,0 +1,625 @@
...
+    (hs : s ∈ uIoc t₀.val t) : s ∈ Icc t₀.val tmax :=
+  Icc_subset_Icc_right ht.2 (Ioc_subset_Icc_self (uIoc_of_le ht.1 ▸ hs))
+
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:414]:
```suggestion

private lemma forall_mem_Icc_eq_integral_of_eqOn {a b : ℝ} {β : ℝ → E} (ht₀ : t₀.val ∈ Icc a b)
    (hαβ : EqOn α β (Icc a b)) (hβ : ∀ t ∈ Icc a b, β t = x₀ + ∫ u in t₀..t, f (u, β u)) :
    ∀ t ∈ Icc a b, α t = x₀ + ∫ u in t₀..t, f (u, α u) := fun t ht ↦ by
  have h : EqOn (fun u ↦ f (u, β u)) (fun u ↦ f (u, α u)) (uIcc t₀.val t) :=
    fun u hu ↦ by simp only [hαβ (uIcc_subset_Icc ht₀ ht hu)]
  rw [hαβ ht, hβ t ht, intervalIntegral.integral_congr h]

```
Convience lemma for simplifying the theorems below.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 31]
```diff
@@ -0,0 +1,625 @@
...
+      simp only [add_right_inj]
+      rw [intervalIntegral.integral_congr]
+      intro s hs
+      simp only
+      rw [hα_eq_α₂]
+      rw [Set.uIcc_of_ge ht_interval.2] at hs
+      rw [Set.mem_Icc]
+      constructor
+      · apply le_trans ht_interval.1 hs.1
+      · exact hs.2
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
  have ht₀₁ : t₀.val ∈ Icc t₀.val tmax := left_mem_Icc.mpr t₀.2.2
  have ht₀₂ : t₀.val ∈ Icc tmin t₀.val := right_mem_Icc.mpr t₀.2.1
  let α : ℝ → E := fun t ↦ if t₀ ≤ t then α₁ t else α₂ t
  have hα_eq_α₁ : EqOn α α₁ (Icc t₀ tmax) := fun t ht ↦ ite_eq_left ht.1
  have hα_eq_α₂ : EqOn α α₂ (Icc tmin t₀) := fun t ht ↦ by
    rcases ht.2.lt_or_eq with h | h
    · exact ite_eq_right (not_le.mpr h)
    · subst h
      exact (ite_eq_left le_rfl).trans (hα₁_t₀.trans hα₂_t₀.symm)
  have h_union : Icc tmin t₀ ∪ Icc t₀ tmax = Icc tmin tmax :=
    Icc_union_Icc_eq_Icc t₀.2.1 t₀.2.2
  refine ⟨α, ?_, ?_, (hα_eq_α₁ ht₀₁).trans hα₁_t₀, fun t ht ↦ ?_⟩
  · rw [← h_union]
    exact (hα₂_cont.congr hα_eq_α₂).union_of_isClosed (hα₁_cont.congr hα_eq_α₁)
      isClosed_Icc isClosed_Icc
  · rw [← h_union]
    exact (hα₂_maps.congr hα_eq_α₂.symm).union (hα₁_maps.congr hα_eq_α₁.symm)
  · rcases le_total t₀.val t with h | h
    · exact forall_mem_Icc_eq_integral_of_eqOn ht₀₁ hα_eq_α₁ hα₁_eq t ⟨h, ht.2⟩
    · exact forall_mem_Icc_eq_integral_of_eqOn ht₀₂ hα_eq_α₂ hα₂_eq t ⟨ht.1, h⟩
```

File: Mathlib/Analysis/ODE/Peano.lean (hunk 22 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/ODE/Peano.lean]: For this one you can tell me to screw off ; )

File: Mathlib/Analysis/ODE/Peano.lean [hunk 32]
```diff
@@ -0,0 +1,625 @@
...
+/-- Every diagonal Tonelli approximation stays in the cylinder. -/
+lemma mapsTo_tonelliApproximation_closedBall (hf : IsPeano f t₀ x₀ r L) (n : ℕ) :
+    MapsTo (tonelliApproximation f t₀ x₀ n) (Icc t₀.val tmax) (closedBall x₀ r) :=
+  mapsTo_tonelliIterate_closedBall hf (n + 1) (n + 1)
+
+/-- Every diagonal Tonelli approximation is Lipschitz continuous with constant `L`. -/
+lemma lipschitzOnWith_tonelliApproximation (hf : IsPeano f t₀ x₀ r L) (n : ℕ) :
+    LipschitzOnWith L (tonelliApproximation f t₀ x₀ n) (Icc t₀.val tmax) :=
+  lipschitzOnWith_tonelliIterate hf (n + 1) (n + 1)
+
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean:245]:
```suggestion

lemma tonelliApproximation_apply_t₀ (f : ℝ × E → E) (t₀ : Icc tmin tmax) (x₀ : E) (n : ℕ) :
    tonelliApproximation f t₀ x₀ n t₀ = x₀ :=
  tonelliIterate_apply_t₀ f t₀ x₀ (n + 1) (n + 1)
  
```

File: Mathlib/Analysis/ODE/Peano.lean [hunk 33]
```diff
@@ -0,0 +1,625 @@
...
+  intro s hs
+  rw [mem_Icc] at hs ⊢
+  have h_mul_nonneg : 0 ≤ (k : ℝ) * stepSize t₀ n :=
+    mul_nonneg (Nat.cast_nonneg k) (stepSize_nonneg t₀ n)
+  unfold delayedInput
+  constructor
+  · exact le_max_right _ _
+  · apply max_le <;> linarith
+
+/-- The delayed input maps `Icc t₀ tmax` to itself. -/
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
```
I'd say you can read it off the theorem statement.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 34]
```diff
@@ -0,0 +1,625 @@
...
+  intro s hs
+  rw [mem_Icc] at hs ⊢
+  have := stepSize_nonneg t₀ n
+  have h_t₀_le_tmax : t₀.val ≤ tmax := t₀.2.2
+  unfold delayedInput
+  constructor
+  · exact le_max_right _ _
+  · apply max_le <;> linarith
+
+/-- The delayed input is Lipschitz continuous with constant one. -/
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
```
As above.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 35]
```diff
@@ -0,0 +1,625 @@
...
+      simp only [Function.comp_apply, α]
+      exact dite_eq_left t.prop
+    rw [hα_comp]
+    change TendstoUniformly
+      (fun n (t : Icc t₀.val tmax) ↦ boundedTonelliApproximation hf (φ n) t) ⇑β atTop
+    exact h_uniform
+
+variable {φ : ℕ → ℕ}
+
+/-- The time-step sizes of the Tonelli approximations tend to zero. -/
```
Comment (luigi-massacci) [inline Mathlib/Analysis/ODE/Peano.lean]:
```suggestion
```
Again can be read off the statement.

**Comment by luigi-massacci** [comment]
As promised. I guess it wasn't really necessary to use `fun_prop` or `piecewise`, just a little bit of rearranging of things. Thank you very much for this! Now you just need to wait for a maintainer, good luck. 

PS: if you are in an ODEs mood, I am 99% sure we are missing the fact that picard iterates converge to the taylor series if `f` is smooth.

File: Mathlib/Analysis/ODE/Peano.lean [hunk 36]
```diff
@@ -0,0 +1,625 @@
...
+@[expose] public section
+
+open Metric Set
+open scoped NNReal
+
+/-! ### Assumptions of Peano's existence theorem -/
+
+/-- The hypotheses for Peano's existence theorem on a closed time interval and a closed ball. -/
+structure IsPeano {E : Type*} [NormedAddCommGroup E]
+    (f : ℝ × E → E) {tmin tmax : ℝ} (t₀ : Icc tmin tmax) (x₀ : E) (r L : ℝ≥0) : Prop where
```
Comment (mcdoll) [inline Mathlib/Analysis/ODE/Peano.lean]: I have mentioned this about the Picard-Lindelöf structure before: having tmin, tmax implicit and then t_0 explicit and as an element in Icc tmin tmax is not very ergonomic. The better options would be having t_0 in R and then t_0 \in Icc tmin tmax as either an extra field or additional assumption when needed.

File: Mathlib/Analysis/ODE/Peano.lean (hunk 13 above)
Comment (mcdoll) [reply Mathlib/Analysis/ODE/Peano.lean]: you could just replace the `apply` by `gcongr` - think keeping the `calc` block is good

File: Mathlib/Analysis/ODE/Peano.lean [hunk 37]
```diff
@@ -0,0 +1,625 @@
...
+    have h_cont :
+        ContinuousOn
+          (fun s ↦ f (s, tonelliIterate f t₀ x₀ n k (delayedInput t₀ n s)))
+          (uIcc t₀.val tmax) := by
+      rw [uIcc_of_le t₀.2.2]
+      exact hf.continuousOn.comp
+        (ContinuousOn.prodMk continuousOn_id
+          (ContinuousOn.comp hk.2.continuousOn
+            (lipschitzWith_delayedInput t₀ n).continuous.continuousOn
+            (mapsTo_delayedInput t₀ n)))
```
Comment (mcdoll) [inline Mathlib/Analysis/ODE/Peano.lean]: `fun_prop` should be able to prove some parts of this

File: Mathlib/Analysis/ODE/Peano.lean (hunk 13 above)
Comment (philipp-svinger) [reply Mathlib/Analysis/ODE/Peano.lean]: Thank you for both of your comments.
We have kept the `calc` block and replaced `apply` by `gcongr`.

File: Mathlib/Analysis/ODE/Peano.lean (hunk 36 above)
Comment (philipp-svinger) [reply Mathlib/Analysis/ODE/Peano.lean]: Thank you for your comments @mcdoll. 
Before updating the PR branch for this one, we have tried implementing your suggested change in a separate branch; the result is in commit https://github.com/leanprover-community/mathlib4/commit/d042872f225fde41d0d99510f8d742fc49cf8c56 .
Is this the kind of structure you had in mind?

**Comment by philipp-svinger** [comment]
-awaiting-author

File: Mathlib/Analysis/ODE/Peano.lean (hunk 36 above)
Comment (philipp-svinger) [reply Mathlib/Analysis/ODE/Peano.lean]: Thank you for your suggestion.
The same comment was made in the first PR (see https://github.com/leanprover-community/mathlib4/pull/42142#discussion_r3940155684).
We have implemented the new IsPeano structure throughout all PRs.
Thank you for you comment.
